US06002008
To 12.5 ml of tetrahydrofuran at -78° C. was added 8.8 ml of 2.5M n-butyllithium in hexanes. Then 1.18 ml of acetonitrile in 25 ml of tetrahydrofuran was added dropwise. The mixture was stirred at -78° C. for 15 minutes. Then a solution of 2-(dimethylamino-methyleneamino)-3,6-dimethoxy-benzoic acid methylester in 62 ml of tetrahydrofuran was added dropwise. The mixture was stirred at -78° C. for 10 minutes, then warmed to room temperature in 15 minutes. Acetic acid (3 ml) was added, followed by 200 ml of water. The product was collected, washed with water, and dried to give 1.57 g of 4-hydroxy-5,8-dimethoxy-quinoline-3-carbonitrile as a solid, mp 300-305° C.; mass spectrum (EI, m/e): M 230.0685.

reactant | n-butyllithium | 2.5M, 8.8 ml | C(CCC)[Li]
reactant | acetonitrile | 1.18 ml | C(C)#N | C2H3N
reactant | 2-(dimethylamino-methyleneamino)-3,6-dimethoxy-benzoic acid methylester | COC(C1=C(C(=CC=C1OC)OC)N=CN(C)C)=O | C13H18N2O4
reactant | Acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 62 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12.5 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 4-hydroxy-5,8-dimethoxy-quinoline-3-carbonitrile | 1.57 g | OC1=C(C=NC2=C(C=CC(=C12)OC)OC)C#N | C12H10N2O3
